* C:\Users\ppala\Desktop\Uni\9.Semester\PEP\PEP\Signalumwandlung.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N005 0 SINE(0 1 10000)
V2 +5v 0 5
V3 0 -5v 5
X§U1 0 N003 Sinus +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R1 Sinus N003 20k
R§10k N003 N005 10k
X§U2 N004 0 Rechteck +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R2 Rechteck N004 190k
R3 N004 Sinus 10k
C1 N002 N001 1n
R4 N001 Rechteck 62k
R5 N002 N001 1Meg
X§U3 0 N001 N002 +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
X§U4 N007 Dreieck PWM +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
V4 N007 0 1
C2 N006 N002 10n
R6 N006 0 10k
X§U5 N006 Dreieck Dreieck +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
X§U6 0 N011 2 +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R7 2 N011 5k
R8 N011 Sinus 10k
X§U7 0 N013 offset +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R9 offset N013 10k
R10 N013 2 10k
R11 N015 N013 10k
R12 +5v N015 5k
R13 N015 -5v 10k
R14 N014 Rechteck 1k
Q1 Sägezahn N014 N016 0 2N2222
C4 N016 -5v 100p
R15 N012 Sägezahn 5k
Q2 N012 N008 N009 0 BC557B
R17 +5v N008 2.2k
D1 N008 N010 1N4148
D2 N010 0 1N4148
R18 N009 +5v 470
.model D D
.lib C:\Users\ppala\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ppala\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 20m 0 1u startup
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4, X§U5, X§U6, X§U7 (C:\Users\ppala\AppData\Local\LTspice\lib\sym\OpAmps\LT1818.asy)
.lib LTC2.lib
.backanno
.end
