* C:\Users\ppala\Desktop\Uni\9.Semester\PEP\PEP\Signalumwandlung.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N007 0 SINE(0 1 10000)
V2 +5v 0 5
V3 0 -5v 5
X§U1 0 N005 Sinus +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R1 Sinus N005 20k
R§10k N005 N007 10k
X§U2 N006 0 Rechteck +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R2 Rechteck N006 190k
R3 N006 Sinus 10k
C1 N002 N001 1n
R4 N001 Rechteck 62k
R5 N002 N001 1Meg
X§U3 0 N001 N002 +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
X§U4 N009 Dreieck PWM +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
V4 N009 0 -1.57
C2 N008 N002 10n
R6 N008 0 10k
X§U5 N008 Dreieck Dreieck +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
X§U6 0 N013 2 +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R7 2 N013 5k
R8 N013 Sinus 10k
X§U7 0 N014 offset +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R9 offset N014 10k
R10 N014 2 10k
R11 N015 N014 10k
R12 +5v N015 5k
R13 N015 -5v 10k
C3 N004 N003 1n
R14 N004 N003 1Meg
X§U8 0 N003 N004 +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
C4 N010 N004 10n
R15 N010 0 10k
R16 PWM N003 65k
X§U9 0 N011 Sägezahn +5v -5v LT1818 ;§pnba IN+)IN-)OUT)VCC)VEE
R17 N011 PWM 3.9K
C5 Sägezahn N011 10n
R19 Sägezahn N011 1Meg
D1 PWM N011 1N4148
R18 N012 0 10k
C6 N012 Sägezahn 10n
.model D D
.lib C:\Users\ppala\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 20m 0 1u startup
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4, X§U5, X§U6, X§U7, X§U8 (C:\Users\ppala\AppData\Local\LTspice\lib\sym\OpAmps\LT1818.asy), X§U9 (C:\Users\ppala\Desktop\Uni\5.Semester\Zusatz\LTSpice\lib\sym\OpAmps\LT1819.asy)
.lib LTC2.lib
.backanno
.end
